US07749992B2
Step 3. Preparation of 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-6-fluor-benzoic acid methyl ester
Add a solution of 2-Isopropoxycarbonylamino-6-fluor-benzoic acid methyl ester (3.0 g, 11.76 mmol) in DMF (43 mL) to a suspension of sodium hydride 60% dispersion mineral oil (471 mg, 11.76 mmol) in DMF (43 mL) at 0° C. under an atmosphere of nitrogen and allow to reach room temperature over 1 h. Add ethyl 4-bromobutyrate (2.5 mL, 17.64 mmol) and stir at room temperature for 14 h. Dilute with ethyl acetate, wash with 1M HCl, water and brine. Dry the organic layer over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to provide the title compound (2.96, 68%). MS (ES+): 370 (M+H).

reactant | 2-Isopropoxycarbonylamino-6-fluor-benzoic acid methyl ester | 11.76 mmol, 3.0 g | COC(C1=C(C=CC=C1F)NC(=O)OC(C)C)=O | C12H14FNO4
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 17.64 mmol, 2.5 mL | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 43 mL | CN(C)C=O | C3H7NO
solvent | DMF | 43 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-6-fluor-benzoic acid methyl ester | 68% | COC(C1=C(C=CC=C1F)N(C(=O)OC(C)C)CCCC(=O)OCC)=O | C18H24FNO6
